US06376488B1
3-chloro-2-cyanopyrazine-1-oxide
2-Chloro-3-cyanopyrazine (5.00 g, 35.94 mmol) in concentrated H2SO4 (35 mL) at 0° C. was treated portionwise with K2S2O8 (11.65 g, 43.95 mmol), warmed to room temperature, stirred for 24 hours, treated with water, and extracted with chloroform. The organic extract was washed sequentially with water, saturated NaHCO3 and brine, dried (MgSO4) and concentrated to provide the title compound. MS (DCI/NH3) m/e 173 (M+NH4)+.

reactant | 2-Chloro-3-cyanopyrazine | 35.94 mmol, 5.00 g | ClC1=NC=CN=C1C#N | C5H2ClN3
reactant | water | O | H2O
solvent | H2SO4 | 35 mL | OS(=O)(=O)O | H2O4S
product | 3-chloro-2-cyanopyrazine-1-oxide | ClC=1C(=[N+](C=CN1)[O-])C#N | C5H2ClN3O
